US04243408
Example 7--Preparation of 3-(2,6-dimethylphenylaminomethyl)-4-methyl-5-mercapto-1,2,4-triazole
To a stirred hot solution of 52.8 g (0.198 mol) 1[alpha-(2,6-dimethylphenylamino)acetyl]-4-methylthiosemicarbazide in 560 ml ethanol was added quickly 8 g (0.198 mol) sodium hydroxide. The reaction mixture was heated under reflux for 2 hours and allowed to stand overnight. The ethanol was then evaporated under reduced pressure to give a solid residue. Water (500 ml) was added to the solid residue and the resulting aqueous mixture was filtered to remove a small amount of a solid. The filtrate was neutralized with concentrated hydrochloric acid, the colorless solid was filtered, washed with water and partially dried in vacuuo over potassium hydroxide pellets at 50° C. The nearly dried product was dissolved in dichloromethane and the aqueous layer separated. The organic layer was dried over magnesium sulfate, filtered and evaporated under reduced pressure to give 43.5 g of the product as a colorless solid, m.p. 172°-173° C. The product is tabulated in Table I as Compound No. 3.

reactant | 1[alpha-(2,6-dimethylphenylamino)acetyl]-4-methylthiosemicarbazide | 0.198 mol, 52.8 g | CC1=C(C(=CC=C1)C)NCC(=O)NNC(=S)NC | C12H18N4OS
reactant | sodium hydroxide | 0.198 mol, 8 g | [OH-].[Na+]
reactant | Water | 500 ml | O | H2O
solvent | ethanol | 560 ml | C(C)O | C2H6O
product | 3-(2,6-dimethylphenylaminomethyl)-4-methyl-5-mercapto-1,2,4-triazole | 43.5 g | CC1=C(C(=CC=C1)C)NCC1=NN=C(N1C)S | C12H16N4S
